US06340759B1
(17-3) 3-Chloro-1-(4-ethylpiperazin-1-yl)isoquinoline
1,3-Dichloroisoquinoline (9.30 g), N-ethylpiperazine (5.90 g) and potassium carbonate (10.0 g) were reacted in dimethylformamide (70 ml) at 70° C. for 5 hr. The reaction solution was evaporated and partitioned between ethyl acetate and water. The resulting organic phase was washed with water, dried and evaporated. The resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 12.80 g of the title compound as a pale brown oil.

reactant | 1,3-Dichloroisoquinoline | 9.30 g | ClC1=NC(=CC2=CC=CC=C12)Cl | C9H5Cl2N
reactant | N-ethylpiperazine | 5.90 g | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-1-(4-ethylpiperazin-1-yl)isoquinoline | 12.80 g | ClC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18ClN3
